US04908379
Synthesis of 5-methyl-6-(4'-propyloxybenzylthio)-2-methylthio-3-ethyl-4(3H)-pyrimidinone (Synthesis of Compound No. 149)
Sodium hydride (55% in mineral oil) (0.70 g) was suspended in 20 ml of hexamethyl phosphoric triamide, and then 3.0 g of 4-propyloxybenzyl mercaptan was added thereto. The mixture was stirred for one hour at room temperature and then incorporated with 3.0 g of 6-chloro-5-methyl-2-methylthio-3-ethyl-4(3H)-pyrimidinone. After stirring at room temperature, resulting mixture was heated to 80° C. under stirring for 3 hours. The resulting solution was poured into water and then extracted with benzene. The extract was washed with an aqueous sodium hydroxide solution and then with water, dried over anhydrous sodium sulfate and freed of solvent by distillation udner reduced pressure. The oil thus obtained was purified by means of column chromatography (on silica gel, eluting with chloroform) to give 2.6 g of the intended product.

reactant | Sodium hydride | 0.70 g | [H-].[Na+]
reactant | 4-propyloxybenzyl mercaptan | 3.0 g | C(CC)OC1=CC=C(CS)C=C1 | C10H14OS
reactant | 6-chloro-5-methyl-2-methylthio-3-ethyl-4(3H)-pyrimidinone | 3.0 g | ClC1=C(C(N(C(=N1)SC)CC)=O)C | C8H11ClN2OS
reactant | water | O | H2O
solvent | hexamethyl phosphoric triamide | 20 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 5-methyl-6-(4'-propyloxybenzylthio)-2-methylthio-3-ethyl-4(3H)-pyrimidinone | 2.6 g | CC=1C(N(C(=NC1SCC1=CC=C(C=C1)OCCC)SC)CC)=O | C18H24N2O2S2
